US08222246B2
a) 5-Methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester
To a solution of N-chlorosuccinimide (46.58 g, 349 mmol) in chloroform (211 mL) and pyridine (2.8 mL, 35 mmol) was added at room temperature within 15 min a solution of pyridine-2-carbaldehyde oxime (42.6 g, 349 mmol) in chloroform (1090 mL). The reaction mixture was stirred at 50° C. for 3 h and then cooled to room temperature. Within 15 min a solution of (E)-3-pyrrolidin-1-yl-but-2-enoic acid ethyl ester (63.9 g, 349 mmol) in chloroform (42 mL) was added to the reaction mixture, which then was heated again to 50° C. and a solution of triethylamine (48.6 mL, 349 mmol) in chloroform (42 mL) was added dropwise within 1 h. After stirring at 50° C. for 1 h the reaction mixture was cooled to room temperature and then poured on ice water (2 L). Extractive workup followed by drying over sodium sulfate, filtering and evaporation of the organic solvent furnished a dark brown oil. Chromatographic purification (silica, heptane:AcOEt=80:20 to 50:50) afforded the title compound (8.7 g, 11%) as a yellow oil MS: m/e=233.3 [M+H]+.

reactant | N-chlorosuccinimide | 349 mmol, 46.58 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | pyridine | 35 mmol, 2.8 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine-2-carbaldehyde oxime | 349 mmol, 42.6 g | N1=C(C=CC=C1)C=NO | C6H6N2O
reactant | (E)-3-pyrrolidin-1-yl-but-2-enoic acid ethyl ester | 349 mmol, 63.9 g | C(C)OC(\C=C(/C)\N1CCCC1)=O | C10H17NO2
reactant | triethylamine | 349 mmol, 48.6 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 211 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1090 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 42 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 42 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | 8.7 g, 11% | C(C)OC(=O)C=1C(=NOC1C)C1=NC=CC=C1 | C12H12N2O3
